US05274096
in said step (5) reacting the 4-(quinolin-2-ylmethoxy)phenylhydrazine product of said step (4) in H2O/methanol with p-chlorobenzyl chloride, tetrabutylammonium bromide and diisopropyl ethyl amine to yield 1-(p-chlorobenzyl)-1-[4(quinolin-2-ylmethoxy)phenyl]hydrazine;

reactant | 4-(quinolin-2-ylmethoxy)phenylhydrazine | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)NN | C16H15N3O
reactant | p-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | diisopropyl ethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | H2O methanol | O.CO
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(p-chlorobenzyl)-1-[4(quinolin-2-ylmethoxy)phenyl]hydrazine | ClC1=CC=C(CN(N)C2=CC=C(C=C2)OCC2=NC3=CC=CC=C3C=C2)C=C1 | C23H20ClN3O
